US07794770B2
5 pounds of malic acid;
5 pounds of citric acid; 4 pounds of Red Punch 586323 CE, available from Premium Ingredients, Franklin Park, Ill.; 8 pounds of Tropical Fruit 597540 C, available from Premium Ingredients, Franklin Park, Ill.; 8 pounds of Raspberry Flavor 01-EF956, available from Western Flavors and Fragrances, Livermore, Calif., may be added. The combined admixture may be mixed for 2 minutes, and the pH may be checked and adjusted if necessary with phosphoric acid to the desired target pH of about 2.8-3.4, usually about pH 3.1.

reactant | citric acid | 5 pounds | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
